US05571821
5-Benzyl-N-(4-Bromo-3-methyl-5-isoxazolyl)thiophene-2-sulfonamide was prepared in the same manner as described in Example 2 from 5-amino-4-bromo-3-methylisoxazole and 5-benzyl-2-thiophenesulfonyl chloride in 22% yield. The product was purified by HPLC (5% CH3CN to 100% CH3CN over 30 min.) to give a solid, m.p. 49°-50° C.

reactant | 5-amino-4-bromo-3-methylisoxazole | NC1=C(C(=NO1)C)Br | C4H5BrN2O
reactant | 5-benzyl-2-thiophenesulfonyl chloride | C(C1=CC=CC=C1)C1=CC=C(S1)S(=O)(=O)Cl | C11H9ClO2S2
product | 5-Benzyl-N-(4-Bromo-3-methyl-5-isoxazolyl)thiophene-2-sulfonamide | 22% yield | C(C1=CC=CC=C1)C1=CC=C(S1)S(=O)(=O)NC1=C(C(=NO1)C)Br | C15H13BrN2O3S2
